US04400519
Benzil-di-(β-bromoethyl)ketal (13.26 g) and 11.42 g of sodium 1,2,5,6-tetrahydrophthalimide were dissolved in 100 ml of N,N-dimethylformamide, and reacted and worked up in the same way as in Example 4. There was obtained 15.3 g (yield 85.9%) of benzil-di-(β-1,2,5,6-tetrahydrophthalimidoethyl)ketal.

reactant | Benzil-di-(β-bromoethyl)ketal | 13.26 g | BrCCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCBr | C18H18Br2O3
reactant | sodium 1,2,5,6-tetrahydrophthalimide | 11.42 g | C1(C2C(C(N1)=O)C=CCC2)=O.[Na]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | benzil-di-(β-1,2,5,6-tetrahydrophthalimidoethyl)ketal | 15.3 g, yield 85.9% | C1(C2C(C(N1CCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCN1C(C3C(C1=O)C=CCC3)=O)=O)C=CCC2)=O | C34H34N2O7
